US04703124
A one-liter glass flask equipped with a stirrer, a dropping funnel with a gas introduction conduit, a reflux with a calcium chloride tube, and a thermometer was charged with 240 grams (2.0 moles) of commercially available cumene saturated with water, 4.0 grams (0.17 mole) of metallic sodium, and 2.7 grams (0.02 mole) of cumyl alcohol while introducing argon gas through the gas introduction conduit, and the resulting mixture was heated to 135° C. A mixture of 69 grams (0.66 mole) of commercially available styrene saturated with water and 60 grams (0.50 mole) of commercially available cumene saturated with water was dropped thereto over 2 hours with stirring while maintaining the temperature of the reaction system at 135°-140° C. After dropwise addition was completed, the reaction mixture was further stirred while heating for 1 hour and then cooled to room temperature. An excess of metallic sodium was decomposed by dropping methanol in small portions while stirring. Introduction of argon gas was stopped, and the contents were transferred to a separating funnel and then washed with water. The aqueous layer was removed, and the remaining oily layer was analyzed by gas chromatography. This gas chromatographic analysis showed that 58.7 grams (0.26 mole) of 1,3-diphenyl-3-methylbutane and 36.9 grams (0.11 mole) of 1,3,5-triphenyl-5-methylhexane were formed. The total yield (per styrene) was 73 mole %.

reactant | cumene | C1(=CC=CC=C1)C(C)C | C9H12
reactant | sodium | 0.17 mole, 4.0 grams | [Na] | Na
reactant | cumyl alcohol | 0.02 mole, 2.7 grams | C(C)(C)(C1=CC=CC=C1)O | C9H12O
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | 1,3-diphenyl-3-methylbutane | 0.26 mole, 58.7 grams | C1(=CC=CC=C1)CCC(C)(C)C1=CC=CC=C1 | C17H20
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 1,3,5-triphenyl-5-methylhexane | 0.11 mole, 36.9 grams | C1(=CC=CC=C1)CCC(CC(C)(C)C1=CC=CC=C1)C1=CC=CC=C1 | C25H28
